* source STABILIZATORDETENSIUNE_2
Q_Q1         N07962 N07920 OUT Q2N2222
X_U1A         N08086 N08172 IN 0 N07962 LM358
R_R2         N07920 OUT R_R2 0.33 TC=0,0 
.model        R_R2 RES R=1 DEV=5% TC1=0 TC2=0
R_R5         0 OUT R_R5 11 TC=0,0 
.model        R_R5 RES R=1 DEV=5% TC1=0 TC2=0
Q_Q2         IN N07962 N07920 Q2N3055
X_P         N08074 N08172 N08252 POT PARAMS: SET={set} VALUE=1k
R_R3         N08074 OUT R_R3 11k TC=0,0 
.model        R_R3 RES R=1 DEV=5% TC1=0 TC2=0
D_D1         0 N08086 D1N4733 
R_R4         0 N08252 R_R4 3.6k TC=0,0 
.model        R_R4 RES R=1 DEV=5% TC1=0 TC2=0
R_R1         N08086 IN R_R1 1k TC=0,0 
.model        R_R1 RES R=1 DEV=5% TC1=0 TC2=0
V_V1         IN 0 27V
.PARAM  set=0.5
